US05804532
Methyl iodide (22.0 ml) was added to a stirred suspension of 4-methyl-2-(N-methylsulphonylamino)benzoic acid (8.0 g) and anhydrous potassium carbonate (24.2 g) in acetone and the mixture was stirred and heated at reflux overnight. The mixture was cooled and filtered and the filtrate was evaporated to dryness. The residue was dissolved in dichloromethane and washed with aqueous sodium bicarbonate solution, water, dried (MgSO4) and filtered. The filtrate was evaporated to dryness to give methyl 4-methyl-2-(N-methyl-N-methylsulphonylamino)benzoate (8.36 g) as a cream solid, m.p. 100°-103° C.

reactant | Methyl iodide | 22.0 ml | CI | CH3I
reactant | 4-methyl-2-(N-methylsulphonylamino)benzoic acid | 8.0 g | CC1=CC(=C(C(=O)O)C=C1)NS(=O)(=O)C | C9H11NO4S
reactant | potassium carbonate | 24.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | CC(=O)C | C3H6O
product | methyl 4-methyl-2-(N-methyl-N-methylsulphonylamino)benzoate | 8.36 g | CC1=CC(=C(C(=O)OC)C=C1)N(S(=O)(=O)C)C | C11H15NO4S
